### PR TITLE
[Merged by Bors] - feat(Algebra/BigOperators/Associated): add lemma divisor_closure_eq_closure

### PR DESCRIPTION
**Pull request by EmilieUthaiwat**
We add `divisor_closure_eq_closure`: 
Let x, y be elements of a `CancelCommMonoidWithZero`. If x * y can be written as a product of units and prime elements, then x can be written as a product of units and prime elements.

We later use `divisor_closure_eq_closure` to prove Kaplansky's criterion (which we plan to add in a future PR). 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Associated.lean [hunk 1]
```diff
@@ -81,6 +81,35 @@ theorem exists_associated_mem_of_dvd_prod [CancelCommMonoidWithZero α] {p : α}
...
 
+open Submonoid in
+/-- Let x, y ∈ α. If x * y can be written as a product of prime elements, then x can be written as
+a product of a unit and prime elements. -/
+theorem Associated_closure_of_mul_mem_closure [CancelCommMonoidWithZero α] :
+    ∀ x y, x * y ∈ closure { r | Prime r } → ∃ z ∈ closure { r : α | Prime r }, x ~ᵤ z := by
+  intros a b hab
+  obtain ⟨m, hm⟩ := exists_multiset_of_mem_closure hab
+  revert a b hm
+  refine' m.induction (p := fun m => ∀ a b, a * b ∈ closure {r | Prime r} →
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/BigOperators/Associated.lean:92]: You can probably use the tactic `induction… generalizing a b`.

File: Mathlib/Algebra/BigOperators/Associated.lean [hunk 2]
```diff
@@ -81,6 +81,35 @@ theorem exists_associated_mem_of_dvd_prod [CancelCommMonoidWithZero α] {p : α}
...
+    (∃ (_ : ∀ y ∈ m, Prime y), m.prod = a * b) → ∃ z ∈ closure {r | Prime r}, a ~ᵤ z) _ _
+  simp only [Multiset.prod_zero, Multiset.not_mem_zero, Set.mem_setOf_eq, IsEmpty.forall_iff,
+    forall_const, exists_const]
+  exact (fun _ _ _ hprod => ⟨1, one_mem _, associated_one_of_mul_eq_one _ hprod.symm⟩)
+  simp only [Set.mem_setOf_eq, exists_prop, and_imp, Multiset.prod_cons, Multiset.mem_cons,
+    forall_eq_or_imp]
+  intros a s hind x y _ hprime hprime₂ hprod
+  cases' hprime.dvd_mul.1 (Dvd.intro _ hprod) with h₁ h₂
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/BigOperators/Associated.lean:100]: I have been told that `cases'` would be deprecated soon. The syntax of `cases` is less comfortable but one gets used to it.

File: Mathlib/Algebra/BigOperators/Associated.lean [hunk 3]
```diff
@@ -81,6 +81,35 @@ theorem exists_associated_mem_of_dvd_prod [CancelCommMonoidWithZero α] {p : α}
       exact ⟨q, Multiset.mem_cons.2 (Or.inr hq₁), hq₂⟩
 #align exists_associated_mem_of_dvd_prod exists_associated_mem_of_dvd_prod
 
+open Submonoid in
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/BigOperators/Associated.lean:84]: There is a notion of “divisor-closed submonoid” in the literature — see https://link.springer.com/article/10.1007/s00233-019-10079-0 where they study the relation between closure and divisor closure.
I don't really know what it is worth, but having it may allow to state this theorem as a kind of `divisor_closure_eq_closure`.

File: Mathlib/GroupTheory/Submonoid/Membership.lean [hunk 4]
```diff
@@ -412,6 +412,18 @@ theorem exists_multiset_of_mem_closure {M : Type*} [CommMonoid M] {s : Set M} {x
 #align submonoid.exists_multiset_of_mem_closure Submonoid.exists_multiset_of_mem_closure
 #align add_submonoid.exists_multiset_of_mem_closure AddSubmonoid.exists_multiset_of_mem_closure
 
+@[to_additive]
+theorem mem_closure_of_exists_multiset {M : Type*} [CommMonoid M] {s : Set M} {x : M}
```
Comment (AntoineChambert-Loir) [inline Mathlib/GroupTheory/Submonoid/Membership.lean:416]: This is a legit proof, but I had the impression that in mathlib, people tried to avoid explicit lemmas like this in benefit of induction lemmas. (Avoiding them would require to define the induction lemma for “divisor_closure”.)

File: Mathlib/Algebra/BigOperators/Associated.lean (hunk 3 above)
Comment (EmilieUthaiwat) [reply Mathlib/Algebra/BigOperators/Associated.lean:112]: Using the article, I added the definition of the divisor closure (`Submonoid.divisor_closure`), of a divisor-closed submonoid (`Submonoid.divisor_closed`), two results about the monoid and the trivial monoid being divisor-closed (`top_divisor_closed` and `bot_divisor_closed`). I think it looks neater now. Thank you! I also proved that `closure { r | Prime r }` is divisor-closed (`Submonoid.closure_divisor_closed`). Should I now rename `Submonoid.closure_divisor_closed` to `divisor_closure_eq_closure` and keep the old name for `Associated_closure_of_mul_mem_closure`?

File: Mathlib/GroupTheory/Submonoid/Membership.lean (hunk 4 above)
Comment (EmilieUthaiwat) [reply Mathlib/GroupTheory/Submonoid/Membership.lean:416]: I have added the induction lemma.

File: Mathlib/Algebra/BigOperators/Associated.lean [hunk 5]
```diff
@@ -81,6 +81,85 @@ theorem exists_associated_mem_of_dvd_prod [CancelCommMonoidWithZero α] {p : α}
...
+
+theorem Submonoid.divisor_closure_le [Monoid α] {s : Set α} {S : Submonoid α} :
+    s ⊆ S ∧ IsDivisorClosed S → Submonoid.divisor_closure s ≤ S := fun h => sInf_le h
+
+/-- An induction principle for divisor closure membership. If `p` satisfies the four conditions
+below, then `p` holds for all elements of the divisor closure of `s`.
+First condition: `p` holds for `1`.
+Second condition: `p` holds for all elements of `s`.
+Third condition: `p` is preserved under multiplication.
+Fourth condition: If `p` holds for an element x, then each divisor of x is the product of an element
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/BigOperators/Associated.lean:107]: Je suis perturbé par la 4e condition: j'aurais dit quelque chose comme : si `p x` et si `y | x`, alors `p y`. 
Par ailleurs, est-ce que `p` vaut automatiquement pour les unités ?
(En fait, dans la condition `divisorClosed`,  c'est apparemment seulement à unité près que n'importe quel diviseur d'un élément y appartient aussi…)

File: Mathlib/Algebra/BigOperators/Associated.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/BigOperators/Associated.lean:127]: I would say that `Submonoid.divisor_closure_eq_closure` is OK.
For the other one, I have no opinion.

File: Mathlib/Algebra/BigOperators/Associated.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/BigOperators/Associated.lean:135]: Can you use your own induction principle to prove 1/ that divisor_closure_eq_closure 
et 2/ your property? (in that order)

File: Mathlib/Algebra/BigOperators/Associated.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/BigOperators/Associated.lean:127]: The definition of `divisor_closed` in that paper is a bit different: “A submonoid S ⊂ H is said to be divisor-closed if every divisor a ∈ H of some element b ∈ S lies in S.” Does it work for you?

Comment (EmilieUthaiwat) [reply Mathlib/Algebra/BigOperators/Associated.lean:127]: I think that the definition of the paper entails that `Submonoid.closure { r : α | Prime r }` is not divisor-closed. Therefore, I tweaked the definition a bit to be able to prove `Submonoid.closure_divisor_closed`.

File: Mathlib/Algebra/BigOperators/Associated.lean (hunk 5 above)
Comment (EmilieUthaiwat) [reply Mathlib/Algebra/BigOperators/Associated.lean]: J'ai modifie la 4e condition comme vous l'avez suggere. 

Maintenant, etant donne qu'on suppose `one : p 1` et `div : ∀ x (_ : p x), ∀ y k (_ : x = y*k), p y`, `p` vaut automatiquement pour les unites. (Je pense que c'etait aussi le cas quand `div` etait une condition a unite pres, en utilisant le theoreme [associated_one_of_mul_eq_one](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Associated.html#associated_one_of_mul_eq_one))

File: Mathlib/Algebra/BigOperators/Associated.lean (hunk 3 above)
Comment (EmilieUthaiwat) [reply Mathlib/Algebra/BigOperators/Associated.lean:84]: The definition of `divisor_closed` in the paper works for me. I made the corresponding changes to the PR so it only depends on this definition now.

File: Mathlib/Algebra/BigOperators/Associated.lean [hunk 6]
```diff
@@ -81,6 +81,44 @@ theorem exists_associated_mem_of_dvd_prod [CancelCommMonoidWithZero α] {p : α}
...
+  intros a b hab
+  obtain ⟨m, hm⟩ := exists_multiset_of_mem_closure hab
+  revert a b hm
+  refine m.induction (p := fun m ↦ ∀ a b, a * b ∈ closure {r | IsUnit r ∨ Prime r} →
+    (∃ (_ : ∀ y ∈ m, y ∈ {r | IsUnit r ∨ Prime r}), m.prod = a * b) →
+    a ∈ closure {r | IsUnit r ∨ Prime r}) (fun _ _ _ hprod => subset_closure (Set.mem_def.2 ?_)) ?_
+  · left; exact isUnit_of_mul_eq_one _ _ hprod.2.symm
+  · simp only [exists_prop, and_imp, Multiset.prod_cons, Multiset.mem_cons, forall_eq_or_imp]
+    intros _ s hind x y _ ha hs hprod
+    rcases ha with ha₁ | ha₂
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/BigOperators/Associated.lean:99]: Let's use the `induction` tactic:
```suggestion
  obtain ⟨m, hm, hprod⟩ := exists_multiset_of_mem_closure hxy
  induction m using Multiset.induction generalizing x y with
  | empty =>
    apply subset_closure
    simp only [Set.mem_setOf]
    simp only [Multiset.prod_zero] at hprod
    left; exact isUnit_of_mul_eq_one _ _ hprod.symm
  | @cons c s hind =>
    simp only [Multiset.mem_cons, forall_eq_or_imp, Set.mem_setOf] at hm
    simp only [Multiset.prod_cons] at hprod
    simp only [Set.mem_setOf_eq] at hind
    obtain ⟨ha₁ | ha₂, hs⟩ := hm
```

File: Mathlib/Algebra/BigOperators/Associated.lean [hunk 7]
```diff
@@ -81,6 +81,44 @@ theorem exists_associated_mem_of_dvd_prod [CancelCommMonoidWithZero α] {p : α}
...
+    · rcases ha₁.exists_right_inv with ⟨k, hk⟩
+      refine hind x (y*k) ?_ hs ?_
+      simp only [← mul_assoc, ← hprod, ← Multiset.prod_cons, mul_comm]
+      refine multiset_prod_mem _ _ (Multiset.forall_mem_cons.2 ⟨subset_closure (Set.mem_def.2 ?_),
+        Multiset.forall_mem_cons.2 ⟨subset_closure (Set.mem_def.2 ?_), (fun t ht =>
+        subset_closure (hs t ht))⟩⟩)
+      left; exact isUnit_of_mul_eq_one_right _ _ hk
+      left; exact ha₁
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/BigOperators/Associated.lean:107]:
```suggestion
      · left; exact isUnit_of_mul_eq_one_right _ _ hk
      · left; exact ha₁
```

File: Mathlib/Algebra/BigOperators/Associated.lean [hunk 8]
```diff
@@ -81,6 +81,44 @@ theorem exists_associated_mem_of_dvd_prod [CancelCommMonoidWithZero α] {p : α}
...
+      rw [← mul_one s.prod, ← hk, ← mul_assoc, ← mul_assoc, mul_eq_mul_right_iff, mul_comm]
+      left; exact hprod
+    · rcases ha₂.dvd_mul.1 (Dvd.intro _ hprod) with ⟨c, hc⟩ | ⟨c, hc⟩
+      rw [hc]; rw [hc, mul_assoc] at hprod
+      refine' Submonoid.mul_mem _ (subset_closure (Set.mem_def.2 _))
+        (hind _ _ _ hs (mul_left_cancel₀ ha₂.ne_zero hprod))
+      right; exact ha₂
+      rw [← mul_left_cancel₀ ha₂.ne_zero hprod]
+      exact multiset_prod_mem _ _ (fun t ht => subset_closure (hs t ht))
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/BigOperators/Associated.lean:116]:
```suggestion
      · rw [hc]; rw [hc, mul_assoc] at hprod
        refine Submonoid.mul_mem _ (subset_closure (Set.mem_def.2 ?_))
          (hind _ _ ?_ hs (mul_left_cancel₀ ha₂.ne_zero hprod))
        · right; exact ha₂
        rw [← mul_left_cancel₀ ha₂.ne_zero hprod]
        exact multiset_prod_mem _ _ (fun t ht => subset_closure (hs t ht))
```

File: Mathlib/Algebra/BigOperators/Associated.lean [hunk 9]
```diff
@@ -81,6 +81,44 @@ theorem exists_associated_mem_of_dvd_prod [CancelCommMonoidWithZero α] {p : α}
...
+      rw [hc, mul_comm x _, mul_assoc, mul_comm c _] at hprod
+      refine' hind x c _ hs (mul_left_cancel₀ ha₂.ne_zero hprod)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/BigOperators/Associated.lean:118]:
```suggestion
      refine hind x c ?_ hs (mul_left_cancel₀ ha₂.ne_zero hprod)
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
@AntoineChambert-Loir do you have further comments on the theorem statement?

I have some more detailed comments about the structure of the proof below.

**Comment by EmilieUthaiwat** [comment]
Thank you for the comments! I have made the changes.

**Comment by AntoineChambert-Loir** [comment]
Did you revert the definitions `IsDivisorClosed` etc that you had introduced? I can't find them anymore.

**Comment by EmilieUthaiwat** [comment]
Yes, I deleted them because they weren't strictly necessary to prove Kaplansky's criterion. Is this fine? The PR currently contains only one result: `divisor_closure_eq_closure`.

**Review by Ruben-VandeVelde — APPROVED** [review]
This sounds fine

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
